US06826033B2
To a suspension of (2S)-2-[(N-benzyl-N-((2S)-2-hydroxy-3-phenoxypropyl]amino]-3-(4-nitrophenyl)-1-propanol (1.12 g) in ethanol (11 ml)—water (2.2 ml) were added powdered iron (573 mg) and ammonium chloride (55 mg). The mixture was gently heated to reflux for 1 hour and allowed to cool to room temperature. After the insoluble material was filtered off, the filtrate was concentrated and partitioned between chloroform and water. The organic layer was separated, washed successively with water and brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (990 mg) as a pale yellow oil.

reactant | (N-benzyl-N-((2S)-2-hydroxy-3-phenoxypropyl]amino]-3-(4-nitrophenyl)-1-propanol | 1.12 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)C(CCC1=CC=C(C=C1)[N+](=O)[O-])O | C25H28N2O5
reactant | water | 2.2 ml | O | H2O
reactant | ammonium chloride | 55 mg | [Cl-].[NH4+]
reactant | ethanol | 11 ml | C(C)O | C2H6O
catalyst | iron | 573 mg | [Fe] | Fe
product | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 990 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
